US04436662
A mixture of 33.9 g (0.11 mol) of 3-[2-(2-chlorobenzoyl)-4-chlorophenyl]-2-propenenitrile, 20 g (0.96 mol) of 1-tosylethyl isocyanide in 150 ml of dimethyl sulfoxide and 100 ml of ether was added dropwise to a suspension of 4.6 g (0.1 mol) of a 50% mineral oil dispension of sodium hydride in 100 ml of ether which was immersed in a room temperature water bath. Stirring at room temperature was continued for 2 hours. The mixture was diluted with 1.2 liters of water and 40 ml of 1 N hydrochloric acid and extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a dark green oil. Crystallization from a mixture of ether and petroleum ether gave 4-[4-chloro-2-(2-chlorobenzoyl)phenyl]-5-methyl-1H-pyrrole-3-carbonitrile, mp 206°-208° C., as tan crystals. Recrystallization from ether gave the desired product as colorless crystals, mp 210°-211° C.

reactant | 3-[2-(2-chlorobenzoyl)-4-chlorophenyl]-2-propenenitrile | 0.11 mol, 33.9 g | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)C=CC#N)C=CC=C1 | C16H9Cl2NO
reactant | 1-tosylethyl isocyanide | 0.96 mol, 20 g | S(=O)(=O)(C1=CC=C(C)C=C1)C(C)[N+]#[C-] | C10H11NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | water | 1.2 liters | O | H2O
solvent | hydrochloric acid | 1 N, 40 ml | Cl | ClH
product | 4-[4-chloro-2-(2-chlorobenzoyl)phenyl]-5-methyl-1H-pyrrole-3-carbonitrile | ClC1=CC(=C(C=C1)C=1C(=CNC1C)C#N)C(C1=C(C=CC=C1)Cl)=O | C19H12Cl2N2O
